US05710170
2-(4-Bromophenyl)-1,1,1,3,3,3-hexafluoro-2-propanol
n-Butyllithium (2.4M solution in hexane; 92.7 mL, 0.222 mol) was added dropwise (20 min) to a solution of p-dibromobenzene (50.0 g, 0.212 mol) in Et2O (1.2 L) at -60° C. After completion of the addition, the reaction was left at -50° C. for 30 min and hexafluoroacetone (42.2 g, 0.254 mol) was bubbled through the heterogeneous mixture, at the same temperature. The resulting solution was allowed to warm to -30° C. over 30 min before saturated aqueous NH4Cl was added. The aqueous layer was extracted with EtOAc (2×) and the combined organic extracts were successively washed with 25% aqueous NH4OAc buffer, water and brine, dried (MgSO4) and concentrated. The residue was distilled under reduced pressure (bp 85°-90° C./12 mmHg) to afford the title compound as colorless crystals (53.5 g, 78%).

reactant | n-Butyllithium | 0.222 mol, 2.4M, 92.7 mL | C(CCC)[Li]
reactant | p-dibromobenzene | 0.212 mol, 50.0 g | BrC1=CC=C(C=C1)Br | C6H4Br2
reactant | hexafluoroacetone | 0.254 mol, 42.2 g | FC(C(=O)C(F)(F)F)(F)F | C3F6O
reactant | NH4Cl | [NH4+].[Cl-]
solvent | Et2O | 1.2 L | CCOCC | C4H10O
product | 2-(4-Bromophenyl)-1,1,1,3,3,3-hexafluoro-2-propanol | 53.5 g, 78% | BrC1=CC=C(C=C1)C(C(F)(F)F)(C(F)(F)F)O | C9H5BrF6O
